US05378689
(2S, 4S, 5S)-5-(t-Butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-2-isopropyl-N-butylhexanamide
A mixture of 890 mg (2.52 mmole) of (3S, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-isopropyldihydrofuran-2(3H)-one (prepared as described in Preparation 1) and 2.5 ml (25.3 mmole) of butylamine was heated at 100° C. for 4 hours. At the end of this time, an excess of the butylamine was removed by distillation under reduced pressure, and the resulting residue was purified by medium pressure column chromatography through silica gel (using a 20:1 by volume mixture of methylene chloride and methanol as the eluent), followed by recrystallization from diisopropyl ether, to afford 1.05 g (yield 98%) of the title compound as white crystals, melting at 115°-118° C. [α]D20 =-34.9° (c=1, methanol).

reactant | (3S, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-isopropyldihydrofuran-2(3H)-one | 2.52 mmole, 890 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C(C)C | C20H35NO4
reactant | butylamine | 25.3 mmole, 2.5 ml | C(CCC)N | C4H11N
solvent | methanol | CO | CH4O
product | (2S, 4S, 5S)-5-(t-Butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-2-isopropyl-N-butylhexanamide | 1.05 g, yield 98% | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCCCC)C(C)C)O)CC1CCCCC1 | C24H46N2O4
